US08232300B2
(6) 4-[(5,6,6a,7,8,9-Hexahydro-4H-2-phenalenyl)carbamoyl]benzoic acid
A suspension of methyl 4-[(5,6,6a,7,8,9-hexahydro-4H-2-phenalenyl)carbamoyl]benzoate (0.093 g) in ethanol (10 ml) was added with 2 N aqueous sodium hydroxide (3 ml), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was made acidic with 2 N aqueous hydrochloric acid, and extracted with chloroform. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure, and the resulting residue was recrystallized from ethyl acetate-n-hexane to obtain the title compound (0.080 g, yield: 90%) as colorless prisms (melting point: 283-284° C.).

reactant | methyl 4-[(5,6,6a,7,8,9-hexahydro-4H-2-phenalenyl)carbamoyl]benzoate | 0.093 g | C1=C(C=C2CCCC3CCCC1=C23)NC(=O)C2=CC=C(C(=O)OC)C=C2 | C22H23NO3
reactant | sodium hydroxide | 2 N, 3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[(5,6,6a,7,8,9-Hexahydro-4H-2-phenalenyl)carbamoyl]benzoic acid | 0.080 g, yield: 90% | C1=C(C=C2CCCC3CCCC1=C23)NC(=O)C2=CC=C(C(=O)O)C=C2 | C21H21NO3
